US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]-propyl}-3-(4-methoxyphenyl)urea hydrochloride
The procedure described in Example 3 was followed, using 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine (5.09 g; 19 mmole), methylene chloride (50 ml) and 4-methoxyphenyl isocyanate (2.83 g; 19 mmole). Recrystallization from methanol/methylene chloride provided the title compound (3.57 g; 45% yield) as orange-white crystals, m.p. 237°-238° C.

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine | 19 mmole, 5.09 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C14H22ClN3
reactant | 4-methoxyphenyl isocyanate | 19 mmole, 2.83 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]-propyl}-3-(4-methoxyphenyl)urea hydrochloride | 3.57 g, 45% yield | Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)OC)C=C1 | InChI=1S/C22H29ClN4O2.ClH/c1-29-21-9-7-20(8-10-21)25-22(28)24-11-2-12-26-13-15-27(16-14-26)17-18-3-5-19(23)6-4-18;/h3-10H,2,11-17H2,1H3,(H2,24,25,28);1H
